US07338959B2
2-Methyl-5-{4-[methyl-(1-methyl-2-methylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-benzenesulfonamide hydrochloride
The title compound was prepared following the procedure of Example 1 with N5-(2-chloropyrimidin-4-yl)-N2,N5,1-trimethyl-1H-benzimidazole-2,5-diamine (58 mg, 0.20 mmol) and 5-amino-2-methyl-benzenesulfonamide (35 mg, 0.20 mmol) as a pink solid (78 mg, 84%). 1H NMR (300 MHz, d6-DMSO) δ 10.63 (br s, 1H), 9.22 (d, J=4.2 Hz, 1H), 8.40 (br s, 2H), 7.91 (d, J=6.9 Hz, 1H), 7.67 (m, 2H), 7.47 (d, J=1.5 Hz, 1H), 7.28-7.36 (m, 3H), 5.83 (m, 1H), 3.67 (s, 3H), 3.53 (s, 3H), 3.08 (d, J=4.5 Hz, 3H), 2.54 (s, 3H). MS (ESI) m/z=453 [M+H]+.

reactant | N5-(2-chloropyrimidin-4-yl)-N2,N5,1-trimethyl-1H-benzimidazole-2,5-diamine | 0.20 mmol, 58 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC)C)C=C1)C | C14H15ClN6
reactant | 5-amino-2-methyl-benzenesulfonamide | 0.20 mmol, 35 mg | NC=1C=CC(=C(C1)S(=O)(=O)N)C | C7H10N2O2S
product | 2-Methyl-5-{4-[methyl-(1-methyl-2-methylamino-1H-benzoimidazol-5-yl)-amino]-pyrimidin-2-ylamino}-benzenesulfonamide hydrochloride | Cl.CC1=C(C=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC)C)C=C1)C)S(=O)(=O)N | InChI=1S/C21H24N8O2S.ClH/c1-13-5-6-14(11-18(13)32(22,30)31)25-20-24-10-9-19(27-20)28(3)15-7-8-17-16(12-15)26-21(23-2)29(17)4;/h5-12H,1-4H3,(H,23,26)(H2,22,30,31)(H,24,25,27);1H
